* File: AN21X1.pex.netlist.pex
* Created: Mon Jun  5 11:11:13 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AN21X1%D_VDD 1 4 8 16 24 25 33
c23 33 0 0.744163f
c24 24 0 0.13842f
c25 21 0 0.0688308f
c26 8 0 0.269678f
c27 4 0 0.212059f
c28 1 0 0.779509f
r29 20 24 0.179444
r30 20 21 0.0120155
r31 12 33 0.045337
r32 9 21 0.0329425
r33 8 33 0.045337
r34 4 21 0.0329425
r35 1 33 0.00160377
r36 1 25 0.105849
r37 1 16 0.238
r38 1 16 0.034
r39 1 12 0.17
r40 1 8 0.119
r41 1 9 0.1275
r42 1 4 0.068
.ends

.subckt PM_AN21X1%N$13 2 5 8 9 11 12 13 15 16 17 19 23 28 32 33 34 37 43
c68 43 0 0.125734f
c69 37 0 0.0743468f
c70 34 0 0.0335423f
c71 33 0 0.10789f
c72 32 0 0.1653f
c73 28 0 0.0736952f
c74 23 0 0.088236f
c75 19 0 0.00430155f
c76 17 0 0.030816f
c77 16 0 0.112683f
c78 15 0 0.284939f
c79 13 0 0.0711841f
c80 12 0 0.336201f
c81 9 0 0.309679f
c82 8 0 0.147477f
c83 5 0 0.253225f
r84 37 43 0.0566888
r85 32 40 15.2678
r86 32 39 15.2678
r87 31 34 0.0141667
r88 31 33 0.061411
r89 31 32 7
r90 26 28 0.1275
r91 23 28 0.00499195
r92 22 34 0.0216719
r93 22 23 0.432083
r94 20 26 0.00499195
r95 20 43 0.48875
r96 19 33 0.396667
r97 17 19 0.0474919
r98 16 17 0.085
r99 14 15 104.167
r100 12 14 13.9682
r101 12 13 81.25
r102 9 15 13.9682
r103 9 11 41.6667
r104 8 13 13.9682
r105 8 40 54.1667
r106 5 39 52.0833
r107 2 16 0.0563764
.ends

.subckt PM_AN21X1%D_GND 1 4 5 11 15 25 30
c23 25 0 0.44395f
c24 15 0 0.52479f
c25 11 0 0.410566f
c26 4 0 0.166781f
c27 1 0 0.598872f
r28 19 25 0.03548
r29 15 25 0.03548
r30 5 30 0.0789286
r31 4 6 0.17
r32 1 30 0.00202381
r33 1 25 0.00202381
r34 1 6 0.0120155
r35 1 11 0.0329425
r36 1 16 0.0329425
r37 1 19 0.14025
r38 1 15 0.22525
r39 1 16 0.22525
r40 1 11 0.24225
.ends

.subckt PM_AN21X1%NAND_O 2 7 11 15 18 21 22 29 31 33
c53 33 0 0.33291f
c54 31 0 0.0919049f
c55 29 0 0.0259258f
c56 22 0 0.138646f
c57 21 0 0.0764237f
c58 18 0 0.142749f
c59 15 0 0.116853f
c60 11 0 0.199341f
c61 7 0 0.605632f
c62 2 0 0.0734295f
r63 28 31 0.08075
r64 28 29 0.0377363
r65 22 34 15.2843
r66 22 33 15.2843
r67 21 22 7
r68 19 29 0.00792564
r69 19 21 0.203056
r70 18 29 0.0377363
r71 18 27 0.418929
r72 13 15 14.5833
r73 9 15 1.46822
r74 9 11 37.5
r75 7 34 170.833
r76 3 13 1.46822
r77 3 33 116.667
r78 2 27 0.0469244
.ends

.subckt PM_AN21X1%OUT 3 4 9 10 16 20 23
c37 23 0 0.126758f
c38 20 0 0.14394f
c39 16 0 0.243995f
c40 10 0 0.0457196f
c41 9 0 0.264839f
c42 3 0 0.110456f
r43 18 23 0.221944
r44 17 20 0.085
r45 17 18 0.00499195
r46 14 20 0.00499195
r47 14 16 0.0944444
r48 13 16 0.165278
r49 9 13 0.0474919
r50 5 10 0.0474919
r51 4 9 0.0802778
r52 4 10 0.269167
r53 3 5 0.155833
.ends

.subckt PM_AN21X1%N$25 1 2 7 8
c13 8 0 0.232907f
c14 7 0 0.156981f
c15 2 0 0.0415178f
c16 1 0 0.25005f
r17 4 8 0.160556
r18 3 7 0.165278
r19 2 3 0.0474919
r20 1 4 0.0474919
r21 1 2 0.288056
.ends

.subckt PM_AN21X1%A 2 4 5 6 7 9 10 12 15 18 21
c28 21 0 0.237487f
c29 18 0 0.0405196f
c30 15 0 0.194774f
c31 10 0 0.247041f
c32 7 0 0.201804f
c33 6 0 0.0881213f
c34 5 0 0.24336f
c35 4 0 0.912272f
c36 2 0 0.277083f
r37 21 23 16.6667
r38 18 21 7
r39 13 15 39.5833
r40 10 12 41.6667
r41 7 15 1.46822
r42 7 9 41.6667
r43 5 10 13.9682
r44 5 6 58.3333
r45 4 6 13.9682
r46 3 23 6.3741
r47 3 4 256.25
r48 2 23 6.3741
r49 1 13 1.46822
r50 1 2 81.25
.ends

.subckt PM_AN21X1%B 3 6 9 13 16 19
c41 19 0 0.393781f
c42 16 0 0.0167735f
c43 13 0 0.166315f
c44 9 0 0.254797f
c45 6 0 0.322851f
c46 3 0 0.527269f
r47 19 21 1.17702
r48 16 19 7
r49 11 13 29.1667
r50 7 13 1.46822
r51 7 9 54.1667
r52 6 11 1.46822
r53 5 19 23.5405
r54 5 6 110.417
r55 1 21 8.35782
r56 1 3 147.917
.ends

.subckt PM_AN21X1%C 2 4 7 9 11 12 16 20 26
c32 26 0 0.238684f
c33 20 0 0.0218372f
c34 18 0 0.0565062f
c35 16 0 0.265285f
c36 12 0 0.231931f
c37 9 0 0.246275f
c38 7 0 0.271678f
c39 4 0 0.237979f
c40 2 0 0.289112f
r41 25 26 15.625
r42 23 26 7.8125
r43 20 23 7
r44 14 16 54.1667
r45 13 18 2.75115
r46 12 14 13.9682
r47 12 13 54.1667
r48 9 11 25
r49 5 18 10.5861
r50 5 7 54.1667
r51 4 18 10.5861
r52 3 26 4.96721
r53 3 4 81.25
r54 2 25 4.96721
r55 1 9 13.9682
r56 1 2 102.083
.ends

