* File: AND2X1.pex.netlist.pex
* Created: Mon Jun  5 11:12:21 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AND2X1%D_VDD 1 8 16 24 25
c13 25 0 0.200248f
c14 24 0 0.294982f
c15 21 0 0.0701213f
c16 19 0 0.0701213f
c17 16 0 0.40861f
c18 8 0 0.281335f
c19 4 0 0.239598f
r20 20 25 0.221944
r21 20 21 0.0120155
r22 18 24 0.221944
r23 18 19 0.0120155
r24 12 21 0.0329425
r25 9 19 0.0329425
r26 8 21 0.0329425
r27 4 19 0.0329425
r28 1 16 0.1445
r29 1 12 0.0765
r30 1 8 0.119
r31 1 9 0.1275
r32 1 4 0.068
.ends

.subckt PM_AND2X1%N$13 2 5 9 12 13 14 18 25 28 33 36 40 44
c53 44 0 0.0392232f
c54 40 0 0.211276f
c55 36 0 0.223693f
c56 33 0 0.0684889f
c57 28 0 0.0434179f
c58 25 0 0.162006f
c59 18 0 0.183304f
c60 14 0 0.0456259f
c61 13 0 0.0723999f
c62 12 0 0.0372274f
c63 9 0 0.25692f
c64 5 0 0.270183f
c65 2 0 0.118025f
r66 33 44 0.0484745
r67 31 40 12.5
r68 30 31 7
r69 28 30 0.00413424
r70 26 36 15.2778
r71 25 27 0.00734659
r72 25 26 7
r73 18 27 0.0201905
r74 17 28 0.0153853
r75 17 18 0.355938
r76 15 25 0.165298
r77 15 44 0.085
r78 13 28 0.0931615
r79 13 14 0.31875
r80 12 14 0.0474919
r81 12 22 0.085
r82 7 40 6.3741
r83 7 9 52.0833
r84 3 36 6.3741
r85 3 5 54.1667
r86 2 22 0.0566888
.ends

.subckt PM_AND2X1%D_GND 1 3 9 17
c11 17 0 0.41976f
c12 9 0 0.643862f
c13 3 0 0.229593f
c14 1 0 0.0701213f
r15 3 4 0.221944
r16 1 4 0.0120155
r17 1 9 0.0329425
r18 1 13 0.0329425
r19 1 17 0.136
r20 1 13 0.08075
r21 1 9 0.25075
.ends

.subckt PM_AND2X1%OUT 2 10 14 17
c13 17 0 0.348927f
c14 14 0 0.115825f
c15 10 0 0.0873343f
c16 2 0 0.302969f
r17 14 17 0.0424497
r18 12 17 0.396667
r19 10 12 0.0350353
r20 10 11 0.0435353
r21 2 11 0.283333
.ends

.subckt PM_AND2X1%A 3 6 9 10 11 16 21
c24 21 0 0.175468f
c25 16 0 0.0193744f
c26 11 0 0.106737f
c27 10 0 0.205156f
c28 6 0 0.192426f
c29 3 0 0.764591f
r30 14 21 4.16667
r31 14 18 5.55556
r32 14 16 7
r33 10 11 16.6389
r34 9 10 41.6667
r35 6 21 6.3741
r36 6 11 58.3333
r37 1 18 6.3741
r38 1 3 195.833
.ends

.subckt PM_AND2X1%B 3 7 8 11 13 14 17 19
c34 19 0 0.0189999f
c35 17 0 0.144376f
c36 14 0 0.0360307f
c37 13 0 0.246205f
c38 11 0 0.276861f
c39 8 0 0.0925172f
c40 7 0 0.0480443f
c41 3 0 0.433797f
r42 17 23 15.2843
r43 17 22 15.2843
r44 17 19 7
r45 13 23 81.25
r46 11 14 54.1667
r47 8 14 12.6897
r48 7 13 12.6897
r49 7 8 30.7692
r50 3 22 125
.ends

