* File: AND3X1.pex.netlist.pex
* Created: Mon Jun  5 11:13:28 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AND3X1%D_VDD 1 4 8 12 13 18 26 27
c19 26 0 0.237836f
c20 23 0 0.0701213f
c21 18 0 0.395724f
c22 13 0 0.186512f
c23 12 0 0.0860366f
c24 8 0 0.273499f
c25 4 0 0.437417f
c26 1 0 0.0701213f
r27 20 26 0.264444
r28 14 23 0.0329425
r29 13 23 0.0120155
r30 12 27 0.0616706
r31 12 13 0.198333
r32 8 23 0.0329425
r33 1 20 0.0120155
r34 1 4 0.0329425
r35 1 9 0.0329425
r36 1 18 0.1275
r37 1 14 0.0595
r38 1 8 0.136
r39 1 9 0.102
r40 1 4 0.2295
.ends

.subckt PM_AND3X1%N$24 2 5 9 14 15 16 19 30 31 33 36 37 41
c51 41 0 0.201055f
c52 37 0 0.140484f
c53 36 0 0.231819f
c54 33 0 0.0486682f
c55 31 0 0.0365526f
c56 30 0 0.0772953f
c57 19 0 0.0842873f
c58 16 0 0.0987408f
c59 15 0 0.0894072f
c60 14 0 0.0580163f
c61 9 0 0.30082f
c62 5 0 0.647212f
c63 2 0 0.141477f
r64 32 37 0.179444
r65 32 33 0.00935391
r66 30 31 0.0590565
r67 29 30 0.122188
r68 23 36 0.179444
r69 22 25 0.103889
r70 22 23 0.00499195
r71 20 41 15.2778
r72 20 38 4.16667
r73 19 20 7
r74 17 33 0.0359928
r75 17 19 0.184167
r76 16 25 0.0377778
r77 15 33 0.0359928
r78 15 16 0.174722
r79 14 25 0.00992823
r80 14 31 0.302812
r81 7 41 6.3741
r82 7 9 62.5
r83 3 38 6.3741
r84 3 5 195.833
r85 2 29 0.0673634
.ends

.subckt PM_AND3X1%D_GND 1 3 9 19
c11 19 0 0.468557f
c12 9 0 0.764507f
c13 3 0 0.265434f
c14 1 0 0.0701213f
r15 3 4 0.207778
r16 1 4 0.0120155
r17 1 9 0.0329425
r18 1 15 0.0329425
r19 1 19 0.15725
r20 1 15 0.1105
r21 1 9 0.085
.ends

.subckt PM_AND3X1%OUT 2 10 11 15
c11 15 0 0.395529f
c12 11 0 0.143594f
c13 2 0 0.27478f
r14 12 15 0.363611
r15 11 12 0.00499195
r16 10 11 0.0141667
r17 7 10 0.0425
r18 3 7 0.00499195
r19 2 3 0.236111
.ends

.subckt PM_AND3X1%A 1 3 7 10
c19 10 0 0.0804757f
c20 7 0 0.285478f
c21 3 0 0.564697f
c22 1 0 0.706704f
r23 10 13 7
r24 5 13 43.0933
r25 5 7 70.8333
r26 1 13 28.2234
r27 1 3 150
.ends

.subckt PM_AND3X1%B 3 7 10 11 14
c26 11 0 0.146759f
c27 10 0 0.0248127f
c28 7 0 0.654574f
c29 3 0 0.420311f
r30 11 18 15.2843
r31 11 17 15.2843
r32 10 14 0.0283333
r33 10 11 7
r34 7 18 177.083
r35 3 17 131.25
.ends

.subckt PM_AND3X1%C 3 6 9 12 14 17
c27 17 0 0.109113f
c28 14 0 0.0113654f
c29 12 0 0.143629f
c30 9 0 0.632942f
c31 6 0 0.188737f
c32 3 0 0.280409f
r33 17 20 15.4759
r34 14 17 7
r35 11 12 18.7367
r36 9 20 177.083
r37 6 17 2.71739
r38 6 12 25.5435
r39 3 11 70.8333
.ends

